US08604033B2
According to Scheme 1 Step 4: A solution of 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxamide (109 mmol, 25.1 g) and Lawesson's reagent (109 mmol, 43.9 g) in CHCl3/toluene (1:1, 136 mL) was stirred at 85° C. for 12 hours. The reaction mixture was evaporated and the residue was recrystallized in EtOAc/pentane to yield 13.8 g of 1-(4-methoxybenzyl)-1H-pyrazole-4-carbothioamide. The mother liquors were evaporated and the crude residue was purified by flash chromatography over silica gel using DCM/EtOAc (100:0 to 70:30) to yield 1-(4-methoxybenzyl)-1H-pyrazole-4-carbothioamide (94.6 mmol, 23.4 g, 87%) as a beige solid.

reactant | 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxamide | 109 mmol, 25.1 g | COC1=CC=C(CN2N=CC(=C2)C(=O)N)C=C1 | C12H13N3O2
reactant | Lawesson's reagent | 109 mmol, 43.9 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | CHCl3 toluene | 136 mL | C(Cl)(Cl)Cl.C1(=CC=CC=C1)C
product | 1-(4-methoxybenzyl)-1H-pyrazole-4-carbothioamide | 13.8 g | COC1=CC=C(CN2N=CC(=C2)C(N)=S)C=C1 | C12H13N3OS
